US08420812B2
1-Methyl-3phenyl-5-(5-phenyl-pent-1-ynyl)-1H-pyrazole
This product was prepared from toluene-4-sulfonic acid 2-methyl-5-phenyl-2H-pyrazol-3-yl ester and pent-4-ynyl-benzene following the general procedure for the Sonogashira cross-coupling reaction described above. Chromatography eluent: heptane/DCM 1:1; yield (80 mg, 53%); 1H NMR δ (CDCl3): 7.78 (d, J=8.21 Hz, 2H), 7.43-7.22 (m, 8H), 6.62 (s, 1H), 3.98 (s, 3H), 2.78 (t, J=7.30 Hz, 2H), 2.43 (t, J=7.19 Hz, 2H), 1.96 (p, J=7.33 Hz, 2H); LCMS m/z: 300.

reactant | toluene-4-sulfonic acid 2-methyl-5-phenyl-2H-pyrazol-3-yl ester | CN1N=C(C=C1OS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C17H16N2O3S
reactant | pent-4-ynyl-benzene | C(CCC#C)C1=CC=CC=C1 | C11H12
solvent | heptane DCM | CCCCCCC.C(Cl)Cl
product | 1-Methyl-3phenyl-5-(5-phenyl-pent-1-ynyl)-1H-pyrazole | CN1N=C(C=C1C#CCCCC1=CC=CC=C1)C1=CC=CC=C1 | C21H20N2
